US06849636B2
Methyl 4-[(1E)-3-(2-methyl-1,3-dioxolan-2-yl)prop-1-enyl]bicyclo[2.2.2]octane-1-carboxylate (4-B) (1.1 g) was stirred in ethanol (75 mL). A spatula tip scoop of 10% Pd on carbon (150 mg) was added. A hydrogen balloon was added and the mixture was stirred under hydrogen atmosphere for 3 h. The palladium-on-carbon was filtered and the ethanol was removed in vacuo to yield methyl 4-[3-(2-methyl-1,3-dioxolan-2-yl)propyl]bicyclo[2.2.2]octane-1-carboxylate (4-C).

reactant | Methyl 4-[(1E)-3-(2-methyl-1,3-dioxolan-2-yl)prop-1-enyl]bicyclo[2.2.2]octane-1-carboxylate | 1.1 g | CC1(OCCO1)C/C=C/C12CCC(CC1)(CC2)C(=O)OC | C17H26O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 150 mg | [Pd] | Pd
product | methyl 4-[3-(2-methyl-1,3-dioxolan-2-yl)propyl]bicyclo[2.2.2]octane-1-carboxylate | CC1(OCCO1)CCCC12CCC(CC1)(CC2)C(=O)OC | C17H28O4
